US06022492
Synthesis of 2-(2,3-difluoro-4-octylphenyl)-5-(6-hexyloxypyridin-3-yl)pyrimidine
The reaction of 2.5 mmol of 2-chloro-5-(6-hexyloxypyridin-3-yl)pyrimidine, 2.5 mmol of 2,3-difluoro-4-octylphenylboronic acid, 5 mmol of sodium carbonate and 0.025 mmol of tetrakis(triphenylphosphine)palladium(0) in 8 ml of toluene, 4 ml of ethanol and 4 ml of water is carried out analogously to the procedure indicated for Example 1a). The crude product is separated off by column chromatography on silica gel 60 using dichloromethane/ethyl acetate 98:2 (v/v) as eluent and is recrystallized from acetonitrile, giving 0.47 g (39%) of colorless crystals, X 94.5 SC 125.5 SA 156 I.

reactant | 2-chloro-5-(6-hexyloxypyridin-3-yl)pyrimidine | 2.5 mmol | ClC1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCC | C15H18ClN3O
reactant | 2,3-difluoro-4-octylphenylboronic acid | 2.5 mmol | FC1=C(C=CC(=C1F)CCCCCCCC)B(O)O | C14H21BF2O2
reactant | sodium carbonate | 5 mmol | C([O-])([O-])=O.[Na+].[Na+]
solvent | toluene | 8 ml | C1(=CC=CC=C1)C | C7H8
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | water | 4 ml | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.025 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2,3-difluoro-4-octylphenyl)-5-(6-hexyloxypyridin-3-yl)pyrimidine | 0.47 g, 39% | FC1=C(C=CC(=C1F)CCCCCCCC)C1=NC=C(C=N1)C=1C=NC(=CC1)OCCCCCC | C29H37F2N3O
